US07056943B2
1-Benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indole
A mixture of 1-benzyl-5-bromo-1H-indole (5.2 g, 18 mmol), 4-trifluoromethoxyphenylboronic acid (4.7 g, 23 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (0.88 g, 1.1 mmol), potassium carbonate (3.8 g, 27 mmol) in dioxane (135 mL) and water (13.5 mL) was heated at 77° C. for 5 hours. The reaction mixture was evaporated to dryness and partitioned in ethyl acetate and 2N hydrochloric acid. The organic phase was washed with water and brine, dried over anhydrous anhydrous magnesium sulfate, filtered and evaporated to dryness. The residue was purified by flash chromatography (Biotage apparatus) using hexane as an eluant to yield the title compound as a light yellow wax/solid (2.8 g, 42%), mp 62–63° C. 1HNMR (300 MHz, DMSO-d6): δ7.85 (s, 1H), 7.75 (d, 2H, J=7.7 Hz), 7.5–7.6 (m, 2H), 7.4 (d, 3H, J=7.7 Hz), 7.2-7.35 (m, 5H), 6.6 (d, 1H, J=3.9 Hz), and 5.45 ppm (s, 2H).

reactant | 1-benzyl-5-bromo-1H-indole | 18 mmol, 5.2 g | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)Br | C15H12BrN
reactant | 4-trifluoromethoxyphenylboronic acid | 23 mmol, 4.7 g | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | dichloromethane | 1.1 mmol, 0.88 g | ClCCl | CH2Cl2
reactant | potassium carbonate | 27 mmol, 3.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 135 mL | O1CCOCC1 | C4H8O2
solvent | water | 13.5 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-Benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indole | 2.8 g, 42% | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)C1=CC=C(C=C1)OC(F)(F)F | C22H16F3NO
